US07897612B2
21a) Ethyl 8-hydroxy-6-oxo-5,6-dihydropyrido[2,3-]pyrazine-7-carboxylate
A solution of 3-aminopyrazine-2-carboxylic acid methyl ester (0.596 g, 3.89 mmol) in dichloromethane (20.0 mL) was treated with triethylamine (2.65 mL, 19.40 mmol) followed by ethyl malonyl chloride (2.44 mL, 19.40 mmol). The mixture was stirred at ambient temperature overnight. The solution was concentrated in vacuo and the residue was dissolved in ethanol (15.0 mL). The solution was treated with sodium ethoxide (7.20 mL, 19.40 mmol, 21% solution in ethanol) at ambient temperature and stirred for 2 h. The solution was dissolved with water and treated with 6N aqueous hydrochloric acid. The solid formed was filtered and washed with diethyl ether to afford the title compound as a yellow solid (0.667 g, 73%). 1H NMR (400 MHz, DMSO-d6) δ ppm 12.3 (s, 1H), 8.68 (d, J=2.3 Hz, 1H), 8.57 (d, J=2.3 Hz, 1H), 4.26 (q, J=7.2 Hz, 2H), 1.27 (t, J=7.1 Hz, 3H). MS(ES+) m/e 235 [M+H]+.

reactant | 3-aminopyrazine-2-carboxylic acid methyl ester | 3.89 mmol, 0.596 g | COC(=O)C1=NC=CN=C1N | C6H7N3O2
reactant | triethylamine | 19.40 mmol, 2.65 mL | C(C)N(CC)CC | C6H15N
reactant | ethyl malonyl chloride | 19.40 mmol, 2.44 mL | C(C)C(C(=O)Cl)C(=O)Cl | C5H6Cl2O2
reactant | sodium ethoxide | 19.40 mmol, 7.20 mL | [O-]CC.[Na+]
reactant | hydrochloric acid | 6N | Cl | ClH
solvent | dichloromethane | 20.0 mL | ClCCl | CH2Cl2
solvent | water | O | H2O
product | Ethyl 8-hydroxy-6-oxo-5,6-dihydropyrido[2,3-]pyrazine-7-carboxylate | 0.667 g, 73% | OC1=C(C(NC=2N=CC=NC21)=O)C(=O)OCC | C10H9N3O4
